US05308863
Step C: Preparation of 5,6-Dihydro-6-allyloxymethyl-4-ethylamino-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide, α- and β-Isomer
Acetaldehyde, 1.5 ml. (1.19 g, 0.027 m), was added to a solution of 5,6-dihydro-6-allyloxymethyl-4-amino-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide, 10.0 g. (0.028 m.), in dry tetrahydrofuran, 150 ml., and the mixture was stirred at ambient temperature for 0.75 h. under nitrogen. The solution was added over 15 min. to a stirred suspension of sodium borohydride, 5.3 g. (0.14 m.) in absolute ethanol, 150 ml., at 0° C. After stirring for an additional 15 min. at 0° C., the mixture was treated dropwise with 10% hydrochloric acid, 35 ml., until gas evolution ceased. After concentration in vacuo, the residue was distributed between 200 ml. of water containing 10 ml. of 3N hydrochloric acid and 75 ml. of ethyl acetate. The ethyl acetate layer was washed with 100 ml. of water, the combined aqueous wash and acidic water layer were basified with saturated sodium bicarbonate solution and extracted with ethyl acetate (300 ml. and 2×200 ml.). After washing twice with brine and drying over sodium sulfate, ethyl acetate was evaporated in vacuo to yield 6.6 g. (63%) of the mixture of isomers as a yellow foam.

reactant | Acetaldehyde | C(C)=O | C2H4O
reactant | 5,6-dihydro-6-allyloxymethyl-4-amino-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | C(C=C)OCC1CC(C2=C(S1(=O)=O)SC(=C2)S(=O)(=O)N)N | C11H16N2O5S3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 5,6-Dihydro-6-allyloxymethyl-4-ethylamino-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | C(C=C)OCC1CC(C2=C(S1(=O)=O)SC(=C2)S(=O)(=O)N)NCC | C13H20N2O5S3
